US06380218B1
2-(4-Fluorophenoxy)-3-pyridinecarboxylic Acid Methyl Ester
A mixture of 20.0 g (89.6 mmol) of 2-(4-fluorophenoxy)-3-pyridinecarboxylic acid (for preparation, see: Villani, F. J. et al. J. Med. Chem., 1975, 18,3), 300 mL of methanol, and 5.5 mL of concentrated sulfuric acid was heated to reflux for 2 h. The cooled mixture was poured onto 500 mL of ice cold saturated aqueous sodium hydrogencarbonate solution, and the resulting precipitate was filtered, washed with water, and dreid under vacuum to give 12.9 g (64% yield) of the title compound as a white solid, mp 97-99° C. Anal. Calcd for C13H10NO3F: C, 63.16; H, 4.08; N, 5.67. Found: C, 62.80; H, 4.08; N, 5.50.

reactant | 2-(4-fluorophenoxy)-3-pyridinecarboxylic acid | 89.6 mmol, 20.0 g | FC1=CC=C(OC2=NC=CC=C2C(=O)O)C=C1 | C12H8FNO3
reactant | sulfuric acid | 5.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 300 mL | CO | CH4O
product | 2-(4-Fluorophenoxy)-3-pyridinecarboxylic Acid Methyl Ester | 12.9 g, 64% yield | COC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F | C13H10FNO3
